US05273993
2-[4-(2-Methyl-1H-imidazol-1-yl)phenoxy]ethanol.
4-(2-Methyl-1H-imidazol-1-yl)phenol (10.0g, 0.057 mole), 2-chloroethanol (13.88 g, 0.172 mole) and potassium carbonate (23.74 g, 0.172 mole) were combined in methyl ethyl ketone (200 ml) and heated at reflux temperature for four days. The solution was cooled and the solid filtered and rinsed with acetone. The filtrate was concentrated to a residue and the residue triturated with hot acetone (2×50 ml). The remaining solid (1.5 g) was dissolved in methylene chloride. Insoluble materials were removed by filtrateion, and the filtrate concentraed to obtain 0.50 g (4%), mp 125°-127° C. Proton NMR indicates that methylene chloride is present in the sample.

reactant | 4-(2-Methyl-1H-imidazol-1-yl)phenol | 0.057 mole, 10.0g | CC=1N(C=CN1)C1=CC=C(C=C1)O | C10H10N2O
reactant | 2-chloroethanol | 0.172 mole, 13.88 g | ClCCO | C2H5ClO
reactant | potassium carbonate | 0.172 mole, 23.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 2-[4-(2-Methyl-1H-imidazol-1-yl)phenoxy]ethanol | CC=1N(C=CN1)C1=CC=C(OCCO)C=C1 | C12H14N2O2
